US07875728B2
Preparation of 5-but-3-enyl-4-(isoquinolin-5-ylhydrazono)-4H-pyrazol-3-ylamine
5-Aminoisoquinoline (175 mg, 1.2 mmole) was mixed in 1.5 mL of 4 M sulfuric acid in an ice bath. To this mixture was slowly added 0.3 mL of an aqueous solution of NaNO2 (80 mg, 1.16 mmole). The resulting diazonium solution was then added to a mixture of 3-oxohept-6-enenitrile (108 mg, 0.88 mmole) obtained as described in Example 22 and NaOAc trihydrate (1.7 g, 12.5 mmole) dissolved in 3 mL of acetic acid and 1.5 mL of water. The mixture was extracted with ethyl acetate. The extracts were dried over Na2SO4, filtered, and evaporated in vacuo to give a sticky residue which was then treated with hydrazine hydrate (36 mg, 0.72 mmole) in 10 mL of ethanol at refluxing temperature for 4 hours. The solvent was removed in vacuo and the brownish oil residue obtained was purified by preparative TLC (CH2Cl2:MeOH=15:1) to yield 55 mg (22%) of the title compound as an orange yellow powder. MS (m/z, ES+): 293 (M+1, 100%), 294 (M+2, 19%); 1H NMR (ppm, 200 MHz, DMSO-d6) δ 9.39 (s, 1H), 8.58 (d, 1H), 8.20 (d, 1H), 8.05 (d, 1H), 7.91 (d, 1H), 7.75 (t, 1H), 6.79 (br s, 2H), 5.90 (m, 1H), 5.20-4.80 (m, 2H), 2.93 (t, 2H), 2.49 (m, 2H).

reactant | 5-Aminoisoquinoline | 1.2 mmole, 175 mg | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
reactant | NaNO2 | 1.16 mmole, 80 mg | N(=O)[O-].[Na+]
reactant | 3-oxohept-6-enenitrile | 0.88 mmole, 108 mg | O=C(CC#N)CCC=C | C7H9NO
reactant | hydrazine hydrate | 0.72 mmole, 36 mg | O.NN
solvent | sulfuric acid | 4 M, 1.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | water | 1.5 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-but-3-enyl-4-(isoquinolin-5-ylhydrazono)-4H-pyrazol-3-ylamine | 55 mg, 22% | C(CC=C)C=1C(C(=NN1)N)=NNC1=C2C=CN=CC2=CC=C1 | C16H16N6
